US06531502B1
Tetrakis(triphenylphosphine)palladium(0) (0.02 g, 0.02 mmol) was added to a solution of 3-(3-bromo-4,5-dimethoxybenzylidene)-1,3-dihydroindol-2-one (0.2 g, 0.56 mmol) in toluene (1 ml) and ethanol (1 ml), followed by addition of 2M aqueous sodium carbonate (1 ml, 2 mmol). To this mixture was added 3-ethoxyphenylboronic acid (0.1 g, 0.62 mmol) and the mixture was held at 100° C. in a sealed tube for 12 hours. The reaction mixture was then added to water (40 ml) and extracted with ethyl acetate (2×75 ml) The combined organic layers were washed with saturated aqueous sodium bicarbonate (50 ml) and brine (50 ml), dried over magnesium sulfate and concentrated. The resulting solid was triturated with methylene chloride/hexanes to afford 0.14 g (64%) of 3-(3′-ethoxy-4,5-dimethoxybiphenyl-2-ylmethylene)-1,3-dihydroindol-2-one as a yellow/orange solid.

reactant | 3-(3-bromo-4,5-dimethoxybenzylidene)-1,3-dihydroindol-2-one | 0.56 mmol, 0.2 g | BrC=1C=C(C=C2C(NC3=CC=CC=C23)=O)C=C(C1OC)OC | C17H14BrNO3
reactant | sodium carbonate | 2 mmol, 2M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-ethoxyphenylboronic acid | 0.62 mmol, 0.1 g | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | water | 40 ml | O | H2O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3′-ethoxy-4,5-dimethoxybiphenyl-2-ylmethylene)-1,3-dihydroindol-2-one | 0.14 g, 64% | C(C)OC=1C=C(C=CC1)C1=C(C=C(C(=C1)OC)OC)C=C1C(NC2=CC=CC=C12)=O | C25H23NO4
